US06858651B2
4.60 g (32.14 mmol) of trans-(4-Methylamino-cyclohexyl)-methanol was suspended in 85 ml hexamethyldisilazane and refluxed for 5 h. The solution was evaporated under reduced pressure and dissolved in 50 ml THF. 6.14 g (32.14 mmol) of 4-chlorophenylchloroformate were added slowly at 0° C. and stirred for 16 h at room temperature. 30 ml H2O were added and after 1 h the solvents were evaporated. The residue was extracted with water/Et2O (3×), the organic phases were washed with 10% NaCl, dried over Na2SO4 and evaporated to yield after flash-chromatography on silica gel (hexane/EtOAc 4:1 to 1:1) 5.48 g (57%) of trans-(4-Hydroxymethyl-cyclohexyl)-methyl-carbamic acid 4-chloro-phenyl ester, MS: 298 (MH+, 1Cl).

reactant | trans-(4-Methylamino-cyclohexyl)-methanol | 32.14 mmol, 4.60 g | CN[C@@H]1CC[C@H](CC1)CO | C8H17NO
reactant | 4-chlorophenylchloroformate | 32.14 mmol, 6.14 g | C1=CC(=CC=C1OC(=O)Cl)Cl | C7H4Cl2O2
reactant | H2O | 30 ml | O | H2O
solvent | hexamethyldisilazane | 85 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
product | trans-(4-Hydroxymethyl-cyclohexyl)-methyl-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(C)[C@@H]1CC[C@H](CC1)CO)=O | C15H20ClNO3
